US07285557B2
6-(4-chlorophenyl)-3-[4-(2,2-diethoxyethoxy)-3-methoxyphenyl]thieno[3,2-d]pyrimidin-4(3H)-one.
To a solution of methyl 3-amino-5-(4-chlorophenyl)-2-thiophenecarboxylate (2.0 g, 7.47 mmol, Maybridge, Inc) in ethanol (20 mL) was added dimethylformamide dimethyl acetal (2.5 mL, 2.5 eq, Aldrich). The reaction mixture was refluxed in a 90° C. oil bath for 3 h at which point the solvents were removed by rotary evaporation. Coevaporation with toluene removed the excess dimethylformamide dimethyl acetal. To the resulting residue was added ethanol (20 mL) and 4-(2,2-diethoxyethoxy)-3-methoxyaniline (2.3 g, 1.2 eq, Example H1). The reaction mixture was heated to 100° C. for 36 hours. The solvent was removed by rotary evaporation and the product purified by column chromatography followed by recrystallization from hot MeOH yielding the intermediate (0.82 g, 22%). 1H NMR (CDCl3) δ 1.22 (6H, t), 3.63-3.83 (4H, m), 3.90 (3H, s), 4.14 (2H, d, J=5.3 Hz), 4.92 (1H, t, J=5.2 Hz), 6.97 (2H), 7.06 (1H, d, J=8.5 Hz), 7.46 (2H, d, J=8.5 Hz), 7.58 (1H, s), 7.68 (2H, d, J=8.4 Hz), 8.24 (1H, br, s). LCMS m/z=501 (m+H+).

reactant | methyl 3-amino-5-(4-chlorophenyl)-2-thiophenecarboxylate | 7.47 mmol, 2.0 g | NC1=C(SC(=C1)C1=CC=C(C=C1)Cl)C(=O)OC | C12H10ClNO2S
reactant | dimethylformamide dimethyl acetal | 2.5 mL, 2.5 eq | COC(N(C)C)OC | C5H13NO2
reactant | 4-(2,2-diethoxyethoxy)-3-methoxyaniline | 2.3 g, 1.2 eq | C(C)OC(COC1=C(C=C(N)C=C1)OC)OCC | C13H21NO4
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 6-(4-chlorophenyl)-3-[4-(2,2-diethoxyethoxy)-3-methoxyphenyl]thieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)C1=CC(=C(C=C1)OCC(OCC)OCC)OC | C25H25ClN2O5S
